US05318939
20.1 g (0.085 mol) of N-(4,4-dicyano-1,3-butadienyl)-N-phenylacetamide and 34.1 g (0.18 mol) of freshly distilled di-n-hexylamine are heated to reflux in 100 ml of abs. ethanol. The initially yellowish suspension inirnediately forms a clear, dark red solution. After a reaction time of 1 hour at reflux, the reaction mixture is cooled and concentrated by evaporation, and the residue is distilled under a high vacuum. The yellowish orange solid product can be recrystallised from toluene after the preliminary purifying distillation, giving 9.4 g (38.5 % yield) of [3-(dihexylamino)-2-propenylidene]propane dinitrile (E-1) as a pale yellow crystalline product of mp. 112°-113° C.

reactant | N-(4,4-dicyano-1,3-butadienyl)-N-phenylacetamide | 0.085 mol, 20.1 g | C(#N)C(=CC=CN(C(C)=O)C1=CC=CC=C1)C#N | C14H11N3O
reactant | di-n-hexylamine | C(CCCCC)NCCCCCC | C12H27N
solvent | ethanol | C(C)O | C2H6O
product | [3-(dihexylamino)-2-propenylidene]propane dinitrile | 9.4 g, 38.5 % yield | C(CCCCC)N(C=CC=C(C#N)C#N)CCCCCC | C18H29N3
